US08207164B2
f) (R)-2-Amino-2-(3-bromo-5-nitro-phenyl)-propan-1-ol
(R)-2-Amino-2-(3-bromo-5-nitro-phenyl)-propionic acid (8.41 g, 25.8 mmol) was suspended in abs. THF (39 ml) and cooled to 0° C. BH3 in THF (103 ml, 103 mmol, 1M in THF) was added and the reaction was stirred at r.t. for 1 hr. The reaction was poured onto NaHCO3 (solid, 26 g, 12 eq.), 78 g ice and 155 ml ethyl acetate and stirred for 20 min. at r.t. Phases were separated. The organic phases were washed with water and brine, combined and dried over Na2SO4. Volatiles were removed under reduced pressure yielding the title compound as brown oil. 1H-NMR (360 MHz, DMSO-d6): 8.40 (s, 1H), 8.25 (s, 1H), 8.18 (s, 1H), 4.95 (t, 1H), 3.55 (m, 1H), 3.38 (m, 1H), 1.33 (s, 3H); MS: 275 [(M+H)+].

reactant | (R)-2-Amino-2-(3-bromo-5-nitro-phenyl)-propionic acid | 25.8 mmol, 8.41 g | N[C@](C(=O)O)(C)C1=CC(=CC(=C1)[N+](=O)[O-])Br | C9H9BrN2O4
reactant | THF | 39 ml | C1CCOC1 | C4H8O
reactant | THF | 103 mmol, 1M, 103 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 155 ml | C(C)(=O)OCC | C4H8O2
product | (R)-2-Amino-2-(3-bromo-5-nitro-phenyl)-propan-1-ol | N[C@](CO)(C)C1=CC(=CC(=C1)[N+](=O)[O-])Br | C9H11BrN2O3
